US04247551
N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-(4-thiomorpholinyl)-3-pyridazineamine
3-Hydrazino-6-(4-thiomorpholinyl)-pyridazine di-hydrochloride and 2,5-hexanedione are reacted in acetic acid in the presence of sodium acetate according to the procedure of example 2. The product is recovered by evaporating the acetic acid and slurring the residue in aqueous sodium bicarbonate. The solid obtained after filtration is purified by chromatography through silicagel using a chloroform-methanol mixture 97.5:2.5 mixture as the eluent. Yield 50%. M.p. 203° C. (from ethyl acetate). Elemental analysis, I.R. and N.M.R. data are in agreement with the assigned structure.

reactant | 3-Hydrazino-6-(4-thiomorpholinyl)-pyridazine di-hydrochloride | Cl.Cl.N(N)C=1N=NC(=CC1)N1CCSCC1
reactant | 2,5-hexanedione | CC(CCC(C)=O)=O | C6H10O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-(4-thiomorpholinyl)-3-pyridazineamine | Yield 50% | CC=1N(C(=CC1)C)NC=1N=NC(=CC1)N1CCSCC1 | C14H19N5S
